US07687491B2
(2b) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxyfuran-2-carboximidamide
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1d) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-2-furonitrile (7.5 g, 32 mmol) that was obtained in Example 2 (2a) and a 40% aqueous solution of hydroxylamine (4.0 ml). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1) as the eluent to afford the title compound (8.1 g) in a yield of 95% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-2-furonitrile | 32 mmol, 7.5 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(O1)C#N | C12H19NO2Si
reactant | hydroxylamine | 4.0 ml | NO | H3NO
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxyfuran-2-carboximidamide | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(O1)C(N)=NO | C12H22N2O3Si
